US06835745B2
3,5-Bis(4-hydroxyphenyl)-4-methylthiophene-2-carbaldehyde O-methyloxime
Starting from 3,5-bis(4-hydroxyphenyl)-4-methylthiophene-2-carbaldehyde (0.86 g, 2.8 mmol) in place of 3-(3-methoxyphenyl)-5-(4-methoxyphenyl)-4-methylthiophene-2-carbaldehyde and methoxylamine hydrochloride (0.25 g, 3.0 mmol) in place of hydroxylamine hydrochloride, the title compound (0.59 g, 62%, m.p. 219-25° C.) was synthesized in essentially the same manner as described in Example 16, Step 1. Contains 6% E form as determined by NOE.

reactant | 3,5-bis(4-hydroxyphenyl)-4-methylthiophene-2-carbaldehyde | 2.8 mmol, 0.86 g | OC1=CC=C(C=C1)C1=C(SC(=C1C)C1=CC=C(C=C1)O)C=O | C18H14O3S
reactant | methoxylamine hydrochloride | 3.0 mmol, 0.25 g | Cl.O(C)N
product | 3,5-Bis(4-hydroxyphenyl)-4-methylthiophene-2-carbaldehyde O-methyloxime | 0.59 g, 62% | CON=CC=1SC(=C(C1C1=CC=C(C=C1)O)C)C1=CC=C(C=C1)O | C19H17NO3S
